US05763705
A method of producing 1,1,1,3,3-pentafluoro-2,-3-dichloropropane which comprises reacting 1,1,1,2,2,3,3-heptachloropropane with an alkali metal hydroxide in the presence of a phase transfer catalyst to form 1,1,1,2,3,3-hexachloropropene; and continuously reacting, at a constant pressure and in the liquid phase, 1,1,1,2,3,3-hexachloropropene with excess hydrogen fluoride in the presence of at least one of an antimony trihalogenide and an antimony pentahalogenide, while selectively removing the 1,1,1,3,3-pentafluoro-2,3-dichlorochloropropane as it is formed.

reactant | 1,1,1,3,3-pentafluoro-2,-3-dichloropropane | FC(C(C(Cl)(F)F)Cl)(F)F | C3HCl2F5
reactant | 1,1,1,2,2,3,3-heptachloropropane | ClC(C(C(Cl)Cl)(Cl)Cl)(Cl)Cl | C3HCl7
product | 1,1,1,2,3,3-hexachloropropene | ClC(C(=C(Cl)Cl)Cl)(Cl)Cl | C3Cl6
